US04239761
N,N,N'-Trimethyl-N'-[2-(1-diethylcarbamoyl-4-piperazinyl)-ethyl]-urea
5.4 g (0.05 mole) of dimethyl carbamic acid chloride dissolved in 20 cc. of toluene are added dropwise with stirring at room temperature to a solution of 12.1 g (0.05 mole) of 1-diethylcarbamoyl-4-(2-methylamino ethyl)-piperazine and 5.1 g (0.05 mole) of triethylamine in 40 cc. of toluene. Thereafter, the reaction mixture is stirred for another hour at about 100° C. The reaction mixture is cooled and the precipitated triethylamine hydrochloride is filtered off with suction and the filtrate is evaporated. The residue is dissolved in 150 cc. of ether, the ethereal solution is washed twice with 150 cc. of 5 n NaOH each time and the resulting solution is dried over anhydrous Na2SO4. Upon evaporation of the ether, 15.3 g (97.6% of the theoretical) of the oily crude urea are obtained.

reactant | dimethyl carbamic acid chloride | 0.05 mole, 5.4 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | 1-diethylcarbamoyl-4-(2-methylamino ethyl)-piperazine | 0.05 mole, 12.1 g | C(C)N(C(=O)N1CCN(CC1)CCNC)CC | C12H26N4O
reactant | triethylamine | 0.05 mole, 5.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N,N'-Trimethyl-N'-[2-(1-diethylcarbamoyl-4-piperazinyl)-ethyl]-urea | CN(C(=O)N(CCN1CCN(CC1)C(N(CC)CC)=O)C)C | C15H31N5O2
